US05725798
0.81 g (21.34 mmol) of LiAlH4 was introduced into 40 ml of diethyl ether and stirred. To the mixture was dropwise added a solution, prepared by introducing 1.71 g (5.06 mmol) of 4'-decyloxy-4-biphenylcarboxylic acid obtained in the first stage of Example 11 into 30 ml of diethyl ether, at room temperature over a period of 2 to 3 minutes, which was then continuously stirred for 5 days. After confirming the consumption of the raw material by TLC, to the resultant mixture was added 40 ml of water, and further added concentrated hydrochloric acid until the aqueous phase was approximately homogenized. The resultant solution was extracted with diethyl ether and dried, to obtain 4-hydroxymethyl-4'-decyloxybiphenyl.

reactant | LiAlH4 | 21.34 mmol, 0.81 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4'-decyloxy-4-biphenylcarboxylic acid | 5.06 mmol, 1.71 g | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C23H30O3
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 4-hydroxymethyl-4'-decyloxybiphenyl | OCC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCCCC | C23H32O2
